US07220759B2
Subsequently, the crystals recovered from the mother liquor of the recrystallization was recrystallized three times from methanol to yield (11.74 g). (−)-3-(1-Benzylpyrrolidin-3-yl)-5-methyl-2H-isoquinolin-1-one D-tartrate (38.8 g) was stirred in methanol (150 ml)-methylene chloride (300 ml), 1N aqueous sodium hydroxide solution (200 ml) and water (100 ml) were added dropwise to alkalify the solution. The methylene chloride layer was partitioned and washed with water, and then dried over magnesium sulfate and concentrated to give (−)-3-(1-benzylpyrrolidin-3-yl)-5-methyl-2H-isoquinolin-1-one (27.5 g).

reactant | (−)-3-(1-Benzylpyrrolidin-3-yl)-5-methyl-2H-isoquinolin-1-one D-tartrate | 38.8 g | C(=O)(O)[C@@H](O)[C@H](O)C(=O)O.C(C1=CC=CC=C1)N1CC(CC1)C=1NC(C2=CC=CC(=C2C1)C)=O
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 1N, 200 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | (−)-3-(1-benzylpyrrolidin-3-yl)-5-methyl-2H-isoquinolin-1-one | 27.5 g | C(C1=CC=CC=C1)N1CC(CC1)C=1NC(C2=CC=CC(=C2C1)C)=O | C21H22N2O
